US04250094
In the manner given in Example 1, 7-ethyl-10-methylsulfonyl-1-(α-bromopropyl)-6-(3-ethylsulfonyl-5-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine was reacted with dimethylamine in the presence of sodium iodide to give 7-ethyl-1-[α-(dimethylamino)propyl]-10-methylsulfonyl-6-(3-ethylsulfonyl-5-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine.

reactant | 7-ethyl-10-methylsulfonyl-1-(α-bromopropyl)-6-(3-ethylsulfonyl-5-chlorophenyl)-4H-s-triazolo[4,3-a][1,4]-benzodiazepine | C(C)C1=CC=C(C2=C1C(=NCC=1N2C(=NN1)C(CC)Br)C1=CC(=CC(=C1)Cl)S(=O)(=O)CC)S(=O)(=O)C | C24H26BrClN4O4S2
reactant | dimethylamine | CNC | C2H7N
reactant | sodium iodide | [I-].[Na+]
product | 7-ethyl-1-[α-(dimethylamino)propyl]-10-methylsulfonyl-6-(3-ethylsulfonyl-5-chlorophenyl)-4H-s-triazolo-[4,3-a][1,4]benzodiazepine | C(C)C1=CC=C(C2=C1C(=NCC=1N2C(=NN1)C(CC)N(C)C)C1=CC(=CC(=C1)Cl)S(=O)(=O)CC)S(=O)(=O)C | C26H32ClN5O4S2
